US06252084B1
2-Ethyl-4-methoxy-1-(phenylmethyl)-1H-indole-3-acetamide (483 mg, 1.5 mmol) and 6 mL of BBr3 were reacted as described in Example 56, Part C, to give after chromatography on silica gel (eluted with ethyl acetate) 156 mg (34% yield) of 2-ethyl-4-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide.

reactant | 2-Ethyl-4-methoxy-1-(phenylmethyl)-1H-indole-3-acetamide | 1.5 mmol, 483 mg | C(C)C=1N(C2=CC=CC(=C2C1CC(=O)N)OC)CC1=CC=CC=C1 | C20H22N2O2
reactant | BBr3 | 6 mL | B(Br)(Br)Br | BBr3
product | 2-ethyl-4-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide | C(C)C=1N(C2=CC=CC(=C2C1CC(=O)N)O)CC1=CC=CC=C1 | C19H20N2O2
